US07151105B2
Step 2: (4-Bromo-2-ethyl-phenyl)-methanol
To a solution of 4-bromo-2-ethyl-benzoic acid (115 mmol) in anhydrous THF (380 mL) at 0° C. was added BH3.THF complex (1.0 N solution in THF, 230 mL) over 30 min. The resulting mixture was slowly warmed up to room temperature and the stirred for 15 hours. The reaction was carefully quenched with slow addition of water. The solvent was removed and the residue was taken up in EtOAc. The organic layer was washed with 1.0 N HCl, H2O, brine and dried over MgSO4. The solvent was removed to afford the desired product. (22 g, 89% yield). 1H NMR (300 MHz, CDCl3): δ 1.23 (t, J=7.5 Hz, 3 H), 2.64–3.01 (m, 2H), 4.68 (s, 2H), 7.24–7.26 (m, 1H), 7.32–7.36 (m, 2H).

reactant | 4-bromo-2-ethyl-benzoic acid | 115 mmol | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
reactant | BH3.THF | 1.0 N, 230 mL | B.C1CCOC1
solvent | THF | 380 mL | C1CCOC1 | C4H8O
product | (4-Bromo-2-ethyl-phenyl)-methanol | 89% yield | BrC1=CC(=C(C=C1)CO)CC | C9H11BrO
